### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry): `Spec.map ϕ = 𝟙 (Spec R) ↔ ϕ = 𝟙 R`

### PR DESCRIPTION
**Pull request by Kiolt**
From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean [hunk 1]
```diff
@@ -523,6 +523,10 @@ lemma Spec.map_inj : Spec.map φ = Spec.map ψ ↔ φ = ψ := by
 lemma Spec.map_injective {R S : CommRingCat} : Function.Injective (Spec.map : (R ⟶ S) → _) :=
   fun _ _ ↦ Spec.map_inj.mp
 
+@[simp]
+lemma Spec.map_eq_id {R : CommRingCat} {ϕ : R ⟶ R} : Spec.map ϕ = 𝟙 (Spec R) ↔ ϕ = 𝟙 R := by
+  simp [← map_inj]
```
Comment (Paul-Lez) [inline Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:528]: Nice! How about squeezing the simp?

Comment (Kiolt) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:528]: According to style guidelines not the best idea https://leanprover-community.github.io/contribute/style.html#squeezing-simp-calls

Comment (Paul-Lez) [reply Mathlib/AlgebraicGeometry/GammaSpecAdjunction.lean:528]: Good point!

**Comment by joelriou** [comment]
Thanks!

bors merge
